US05733913
4-Amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester
To a suspension of ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (25 g) in ethanol (200 mL) was added 30% ammonium hydroxide (38 mL). After stirring 5 hours at room temperature, the reaction was concentrated in vacuo. The residue was suspended in water and filtered. The filter pad, washed with water then diethyl ether, gave 17.68 g of the title compound, CIMS (1% NH3 in CH4): 242=M+ +C2H5, 214=M+ +H (Base), 213=M+, 168=M+ -OEt.

reactant | ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 25 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | ammonium hydroxide | 38 mL | [OH-].[NH4+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 17.68 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)N | C8H11N3O2S
